US07399323B2
α-Farnesene (204 g, 1 mole, 255 mL) was added to a 500 mL Parr high pressure vessel containing 10% Pd/C (5 g, 5% by weight of α-farnesene). The reaction vessel was sealed and evacuated under house vacuum for 5 minutes after which time the reaction mixture was pressurized with H2 to 35 psi at 25° C. The reaction mixture was shaken until no further drop in the H2 pressure was observed (approximately 16 hours). The excess H2 gas was removed under house vacuum followed by venting to a N2 atmosphere. Thin layer chromatography (“TLC”, Rf=0.95, hexane, p-anisaldehyde stain or iodine) indicated the complete disappearance of the reactant. The reaction contents were vacuum filtered over a silica gel (60 Å from Aldrich) pad followed by washing of the silica gel with hexane (2 L). The filtrate was concentrated on a rotary evaporator. The isolated product was further dried under high vacuum to remove any residual hexane to afford farnesane as a colorless liquid (195 g, 244 mL, 95%). 1H-NMR (CDCl3, 500 MHz): δ 1.56-1.11 (m, 17H), 0.88-0.79 (overlapping t&d, 15H).

reactant | α-Farnesene | 1 mole, 255 mL, 204 g | CC(C)=CCC\C(\C)=C\C\C=C(/C)\C=C | C15H24
catalyst | Pd/C | 5 g | [Pd] | Pd
product | farnesane | 244 mL, 195 g, 95% | CCC(C)CCCC(C)CCCC(C)C | C15H32
